US05962462
Step 1F: N-(5-Bromo-2-(3-chlorophenyl)pentyl)-N-methylbenzenesulfonamide
Bromine was added to a solution of triphenylphosphine (41.4 mg, 0.158 mmol) in 0.50 mL of acetonitrile until the red color persisted, and a small additional quantity of triphenylphorsphine was then added to consume the excess bromine. A solution of N-(2-(3-chlorophenyl)-5-hydroxypentyl)-N-methylbenzenesulfonamide (38.7 mg, 0.105 mmol) in 0.3 mL of acetonitrile was added. After stirring for 1 h, the reaction was quenched by a solution of sodium sulfite (20 mg) dissolved in 1.0 mL of water. The mixture was diluted with 15 mL of sodium bicarbonate and extracted with 2×20 mL of ethyl acetate. The organic layers were washed with 15 mL of brine, dried over sodium sulfate and concentrated. The crude product was purified by flash column chromatography on silica gel, eluting with of 10% ethyl acetate in hexane to give 23 mg the title compound.

reactant | Bromine | BrBr | Br2
reactant | triphenylphosphine | 0.158 mmol, 41.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-(2-(3-chlorophenyl)-5-hydroxypentyl)-N-methylbenzenesulfonamide | 0.105 mmol, 38.7 mg | ClC=1C=C(C=CC1)C(CN(S(=O)(=O)C1=CC=CC=C1)C)CCCO | C18H22ClNO3S
solvent | acetonitrile | 0.50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 0.3 mL | C(C)#N | C2H3N
product | N-(5-Bromo-2-(3-chlorophenyl)pentyl)-N-methylbenzenesulfonamide | 23 mg | BrCCCC(CN(S(=O)(=O)C1=CC=CC=C1)C)C1=CC(=CC=C1)Cl | C18H21BrClNO2S
